.include TL071.lib

* 8-Bit R-2R DAC Subcircuit with TL071 Buffer
* Ports: B7(MSB) B6 B5 B4 B3 B2 B1 B0(LSB) VCC VEE GND VOUT
.SUBCKT DAC8_R2R B7 B6 B5 B4 B3 B2 B1 B0 VCC VEE GND VOUT

* --- R-2R Ladder Network ---
R1 B7 N9 20k
R2 B6 N10 20k
R3 B5 N11 20k
R4 B4 N12 20k
R5 B3 N13 20k
R6 B2 N14 20k
R7 B1 N15 20k
R8 B0 N16 20k
R9 N10 N9 10k
R10 N11 N10 10k
R11 N12 N11 10k
R12 N13 N12 10k
R13 N14 N13 10k
R14 N15 N14 10k
R15 N16 N15 10k
R16 GND N16 20k

* --- TL071 Buffer (Internal Connection) ---
* TL071 Map: 1:In- 3:Out 2:In+ 4:V+ 5:V-
* VOUT와 In-(1)을 묶어 Unity Gain Buffer 구성
X1 VOUT VOUT N9 VCC VEE TL071

.ENDS